US09421514B2
(a) Tetraethyl 5,5′-(1,8-naphthyridine-2,7-diyl)diisophthalate
To a 250 mL Schlenk flask, 2,7-dibromo-1,8-naphthyridine (2.00 g, 6.94 mmol), diethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isophthalate (6.06 g, 17.40 mmol, this compound was synthesized according to literature method: J. Natera, L. Otero, L. Sereno, F. Fungo, N.-S. Wang, Y.-M. Tsai, T.-Y. Hwu, K.-T. Wong, Macromolecules 2007, 40, 4456-4463), CsF (4.00 g) and Pd(PPh3)4 (200 mg) were added. The flask was connected to a Schlenk line and evacuated of air then refilled with nitrogen. 140 mL of 1,2-dimethoxyethane (DME) was degassed (two hours) and added to the flask through a canula. The flask was equipped with a water condenser and refluxed under nitrogen for 3 days. The solvent was removed on a rotary evaporator. 100 mL of H2O was added and then extracted with CHCl3. The organic phase was dried with MgSO4. After removal of the CHCl3 solvent, the crude product was purified by column chromatography (silica, ethyl acetate/hexane, 20% and then 50%) to give a yellow solid product with a yield of 70% (2.77 g) based on 2,7-dibromo-1,8-naphthyridine. 1H NMR (300 MHz, DMSO-d6): δ 1.42 (t, 12H), 4.46 (q, 8H), 8.43 (d, 2H), 8.60 (s, 2H), 8.69 (d, 2H), 9.07 (s, 4H).

reactant | 2,7-dibromo-1,8-naphthyridine | 6.94 mmol, 2.00 g | BrC1=NC2=NC(=CC=C2C=C1)Br | C8H4Br2N2
reactant | diethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isophthalate | CC1(OB(OC1(C)C)C=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC)C | C18H25BO6
reactant | CsF | 4.00 g | [F-].[Cs+]
catalyst | Pd(PPh3)4 | 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Tetraethyl 5,5′-(1,8-naphthyridine-2,7-diyl)diisophthalate | yield of 70% | N1=C(C=CC2=CC=C(N=C12)C=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC)C=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC | C32H30N2O8
